US08686046B2
3-(benzyloxy)phenol (38)
To a stirring solution of resorcinol (58 mmol, 6.4 g) in acetonitrile (25 mL) was added potassium carbonate (5.8 mmol, 0.801 g). The solution was then heated to reflux for 1 hour. At this time, benzyl bromide (5.8 mmol, 1 g) in acetonitrile (33 mL) was added to the refluxing mixture. The reaction was monitored by TLC until all benzyl bromide was consumed. At this time the reaction mixture was cooled to room temperature and filtered through a fitted funnel. The mother liquor was then evaporated to an oil and taken up in ethyl acetate (200 mL). The organic layer was extracted with three 15 mL portions of aqueous 1N HCl followed by one 10 mL portion of brine. The organic layer was dried over magnesium sulfate and evaporated to dryness. The crude mixture was purified via flash chromatography to yield 0.819 g (4.1 mmol) of the title product. 1H NMR (300 MHz, CDCl3) δ 7.57-7.33 (m, 5H), 7.15 (t, J=8.2, 1H), 6.59 (dd, J=2.0, 7.9, 1H), 6.52-6.41 (m, 2H), 5.10 (s, 1H), 5.03 (s, 2H). 13C NMR (75 MHz, CDCl3) δ 160.70, 156.84, 137.04, 130.48, 128.86, 128.29, 127.79, 108.36, 107.66, 102.72, 70.29.

reactant | resorcinol | 58 mmol, 6.4 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium carbonate | 5.8 mmol, 0.801 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.8 mmol, 1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 33 mL | C(C)#N | C2H3N
product | 3-(benzyloxy)phenol | 4.1 mmol, 0.819 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
